US05607956
3-Furyl 4-Methyl-5-oxazolyl Ketone
3-Bromofuran (2.5 g) in dry diethylether was stirred and cooled to -70° C. under an atmosphere of dry nitrogen and n-butyllithium (2.5M solution in hexane, 6.8 ml) was added dropwise. After 30 minutes, N-methoxy-N-methyl-4-methyl-5-oxazolecarboxamide (2.89 g) in dry diethylether was added dropwise. After a further 30 minutes the mixture was allowed to warm to room temperature. Ethanol (5 ml) was added followed by saturated aqueous sodium chloride. The mixture was extracted with dichloromethane and the material thus obtained was purified by flash chromatography to give the title compound. M.p. 82°-83.5° C.

reactant | 3-Bromofuran | 2.5 g | BrC1=COC=C1 | C4H3BrO
reactant | n-butyllithium | 2.5M, 6.8 ml | C(CCC)[Li]
reactant | N-methoxy-N-methyl-4-methyl-5-oxazolecarboxamide | 2.89 g | CON(C(=O)C1=C(N=CO1)C)C | C7H10N2O3
reactant | sodium chloride | [Cl-].[Na+]
solvent | diethylether | C(C)OCC | C4H10O
solvent | Ethanol | 5 ml | C(C)O | C2H6O
product | 3-Furyl 4-Methyl-5-oxazolyl Ketone | CC=1N=COC1C(=O)C1=COC=C1 | C9H7NO3
